US07449456B2
1-(4-Nitrophenyl)piperazine and N-(3-bromopropyl)phthalimide were allowed to undergo the reaction under heating in 1-methyl-2-pyrrolidone in the presence of potassium carbonate. The resulting compound was allowed to react with hydrazine monohydrate in THF. The resulting compound was allowed to react with trimethylsilyl isocyanate in THF and then subjected to catalytic hydrogenation in the same manner as in Reference Example 3 to obtain {3-[4-(4-aminophenyl)piperazin-1-yl]propyl}urea. F: 276.

reactant | 1-(4-Nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | N-(3-bromopropyl)phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | O.NN
reactant | trimethylsilyl isocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
product | {3-[4-(4-aminophenyl)piperazin-1-yl]propyl}urea | NC1=CC=C(C=C1)N1CCN(CC1)CCCNC(=O)N | C14H23N5O
